data/oMe_Silver.jsonl
{"reaction_id": "NG-010_1-C_2-c2ccc([N+](=O)[O-])cc2_3-c3ccc2ccccc2c3","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(C)(c2ccc([N+](=O)[O-])cc2))(c3ccc2ccccc2c3)"],"products_smiles": ["C(=C(C)(c2ccc([N+](=O)[O-])cc2))C(c3ccc2ccccc2c3)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(C)(c2ccc([N+](=O)[O-])cc2))(c3ccc2ccccc2c3)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(C)(c2ccc([N+](=O)[O-])cc2))(c3ccc2ccccc2c3)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(C)(c2ccc([N+](=O)[O-])cc2))(c3ccc2ccccc2c3)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(C)(c2ccc([N+](=O)[O-])cc2))C(c3ccc2ccccc2c3)","rationale": "The carbene undergoes a 1,2-shift of C or c2ccc([N+](=O)[O-])cc2 to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
{"reaction_id": "NR-044_1-C#N_2-CC_3-C1CCCCC1_4-CC_5-C1CC1C_6-C(C)CC","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](C#N)(CC)C(C1CCCCC1)(CC)[N+](C1CC1C)(C(C)CC)[O-]"],"products_smiles": ["C(C#N)(CC)=C(C1CCCCC1)(CC)","O[N](C1CC1C)(C(C)CC)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C#N)(CC)=C(C1CCCCC1)(CC).O[N](C1CC1C)(C(C)CC)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
